US07049313B2
[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-1-yl]-carbamic acid tert-butyl ester
To a solution of Trifluoro-methanesulfonic acid 1-tert-butoxycarbonylamino-9H-thioxanthen-4-yl ester (3.05 g, 6.60 mmol) in dry dioxane (10 ml) was added bis(pinacolato)diboron (2.0 g, 7.92 mmol) and anhydrous potassium acetate (1.9 g, 19.80 mmol). The reaction was then degassed (sonication for 20 min then saturated with N2) before the addition of dichloro[1,1′-bis(diphenylphosphino)ferrocene] palladium(II) dichloromethane adduct (0.26 g). The reaction mixture was degassed for a further 20 minutes before a reflux condenser was attached to the reaction vessel which was then heated to 100° C. and stirred vigorously for 24 hours. The brown reaction mixture was then poured onto a silica pad prepared in hexanes and eluted with CH2Cl2:Hexanes (1:1). The collected eluent was concentrated in vacuo to give crude title compound as a dark brown oil that was used without further purification (2.90 g,).

reactant | Trifluoro-methanesulfonic acid 1-tert-butoxycarbonylamino-9H-thioxanthen-4-yl ester | 6.60 mmol, 3.05 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=2SC3=CC=CC=C3CC12)OS(=O)(=O)C(F)(F)F | C19H18F3NO5S2
reactant | bis(pinacolato)diboron | 7.92 mmol, 2.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 19.80 mmol, 1.9 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | [4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-1-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=2SC3=CC=CC=C3CC12)B1OC(C(O1)(C)C)(C)C)=O | C24H30BNO4S
